*|DSPF	1.5
*|DESIGN	nmos_cm_15x5x1_222_1
*|DATE	"Wed Jun 19 2025"
*|VENDOR	"Mentor Graphics Corporation"
*|PROGRAM	"Calibre xACT"
*|VERSION	"v2020.4_34.17"
*|DIVIDER	|
*|DELIMITER	:
*|BUSBIT	[]
* Corner Name: 12lp_11M_3Mx_4Cx_2Kx_2Gx_LB_nominal_detailed_25
* Nominal Temperature: 25C
* Circuit Temperature: 25C
*

* Integrated TICER reduction is not enabled.
* SHORT DELAY THRESHOLD: 2e-14
* Fill Mode: NG
* PEX REDUCE CC ABSOLUTE : disabled
* PEX REDUCE CC RATIO : disabled
* Delta transform mode : 344834

.subckt nmos_cm_15x5x1_222_1 d0 d1 s

* Net:s ----------------


R1 s s:23 6.104
R2 s s:9 5.46
R3 s:9 s:8 2.184
R4 s:9 MN1@0:s 14
R5 s:9 s:70 1.092
R6 s:9 MN1@0:s 14
R7 s:9 s:11 4.368
R8 s:9 MN1@0:s 14
R9 s:11 s:10 2.184
R10 s:11 MN1@1:s 14
R11 s:11 s:74 1.092
R12 s:11 MN1@1:s 14
R13 s:11 s:24 3.724
R14 s:11 MN1@1:s 14
R15 s:24 s:20 2.184
R16 s:24 s:52 1.008
R17 s:24 s:13 0.644
R18 s:13 s:12 2.184
R19 s:13 MN1@3:s 14
R20 s:13 s:78 1.092
R21 s:13 MN1@3:s 14
R22 s:13 s:25 1.54
R23 s:13 MN1@3:s 14
R24 s:25 s:21 2.184
R25 s:25 s:54 1.008
R26 s:25 s:47 1.736
R27 s:21 s:17 16.156
R28 s:21 s:12 1.54
R29 s:21 s:45 1.736
R30 s:12 s:79 3.78
R31 s:12 MN1@3:s 14
R32 s:12 s:20 0.644
R33 s:12 MN1@3:s 14
R34 s:20 s:16 16.156
R35 s:20 s:10 3.724
R36 s:10 s:75 3.78
R37 s:10 MN1@1:s 14
R38 s:10 s:8 4.368
R39 s:10 MN1@1:s 14
R40 s:8 s:71 3.78
R41 s:8 MN1@0:s 14
R42 s:8 s:19 11.564
R43 s:8 MN1@0:s 14
R44 s:19 s:15 16.156
R45 s:19 s:23 2.184
R46 s:19 s:5 1.54
R47 s:5 s:67 3.78
R48 s:5 MN0@3:s 14
R49 s:5 s:6 2.184
R50 s:5 MN0@3:s 14
R51 s:5 s:18 0.644
R52 s:5 MN0@3:s 14
R53 s:18 s:14 16.156
R54 s:18 s:22 2.184
R55 s:18 s:3 3.724
R56 s:3 s:63 3.78
R57 s:3 MN0@1:s 14
R58 s:3 s:4 2.184
R59 s:3 MN0@1:s 14
R60 s:3 s:1 4.368
R61 s:3 MN0@1:s 14
R62 s:1 s:59 3.78
R63 s:1 MN0@0:s 14
R64 s:1 s:2 2.184
R65 s:1 MN0@0:s 14
R66 s:1 s:44 1.092
R67 s:1 MN0@0:s 14
R68 s:2 s:58 1.092
R69 s:2 MN0@0:s 14
R70 s:2 s:46 1.092
R71 s:2 MN0@0:s 14
R72 s:2 s:4 4.368
R73 s:2 MN0@0:s 14
R74 s:4 s:62 1.092
R75 s:4 MN0@1:s 14
R76 s:4 s:22 3.724
R77 s:4 MN0@1:s 14
R78 s:22 s:48 1.008
R79 s:22 s:6 0.644
R80 s:6 s:66 1.092
R81 s:6 MN0@3:s 14
R82 s:6 s:23 1.54
R83 s:6 MN0@3:s 14
R84 s:23 s:50 1.008
R85 s:66 s:65 3.528
R86 s:66 MN0@3:s 14
R87 s:65 s:64 3.528
R88 s:65 MN0@3:s 14
R89 s:64 s:32 3.024
R90 s:64 MN0@3:s 14
R91 s:62 s:61 3.528
R92 s:62 MN0@1:s 14
R93 s:61 s:60 3.528
R94 s:61 MN0@1:s 14
R95 s:60 s:30 3.024
R96 s:60 MN0@1:s 14
R97 s:58 s:57 3.528
R98 s:58 MN0@0:s 14
R99 s:57 s:56 3.528
R100 s:57 MN0@0:s 14
R101 s:56 s:28 3.024
R102 s:56 MN0@0:s 14
R103 s:59 s:29 3.024
R104 s:59 MN0@0:s 14
R105 s:63 s:31 3.024
R106 s:63 MN0@1:s 14
R107 s:14 s:49 1.288
R108 s:14 s:0 2.632
R109 s:14 s:15 2.184
R110 s:15 s:51 1.288
R111 s:15 s:7 17.024
R112 s:7 s:35 1.12
R113 s:7 MN1@0:b 14
R114 s:7 s:34 1.12
R115 s:7 MN1@0:b 14
R116 s:7 s:16 2.632
R117 s:7 MN1@0:b 14
R118 s:16 s:53 1.288
R119 s:16 s:17 2.184
R120 s:17 s:55 1.288
R121 s:17 s:43 1.092
R122 s:0 s:27 1.12
R123 s:0 MN0@0:b 14
R124 s:0 s:26 1.12
R125 s:0 MN0@0:b 14
R126 s:0 s:42 5.908
R127 s:0 MN0@0:b 14
R128 s:67 s:33 3.024
R129 s:67 MN0@3:s 14
R130 s:71 s:37 3.024
R131 s:71 MN1@0:s 14
R132 s:75 s:39 3.024
R133 s:75 MN1@1:s 14
R134 s:79 s:41 3.024
R135 s:79 MN1@3:s 14
R136 s:78 s:77 3.528
R137 s:78 MN1@3:s 14
R138 s:77 s:76 3.528
R139 s:77 MN1@3:s 14
R140 s:76 s:40 3.024
R141 s:76 MN1@3:s 14
R142 s:74 s:73 3.528
R143 s:74 MN1@1:s 14
R144 s:73 s:72 3.528
R145 s:73 MN1@1:s 14
R146 s:72 s:38 3.024
R147 s:72 MN1@1:s 14
R148 s:70 s:69 3.528
R149 s:70 MN1@0:s 14
R150 s:69 s:68 3.528
R151 s:69 MN1@0:s 14
R152 s:68 s:36 3.024
R153 s:68 MN1@0:s 14
R154 MN0@0:b MN0@1:b 0.01
R155 MN0@1:b MN0@2:b 0.01
R156 MN0@2:b MN0@3:b 0.01
R157 MN0@3:b MN0@4:b 0.01
R158 MN0@1:s MN0@2:s 0.01
R159 MN0@3:s MN0@4:s 0.01
R160 MN1@0:b MN1@1:b 0.01
R161 MN1@1:b MN1@2:b 0.01
R162 MN1@2:b MN1@3:b 0.01
R163 MN1@3:b MN1@4:b 0.01
R164 MN1@1:s MN1@2:s 0.01
R165 MN1@3:s MN1@4:s 0.01
C1 s:9 0 1.6380000000000002e-14
C2 s:9 0 8.190000000000001e-15
C3 s:9 0 3.2760000000000004e-14
C4 s:11 0 1.6380000000000002e-14
C5 s:11 0 8.190000000000001e-15
C6 s:11 0 2.793e-14
C7 s:24 0 1.6380000000000002e-14
C8 s:24 0 7.56e-15
C9 s:24 0 4.83e-15
C10 s:13 0 1.6380000000000002e-14
C11 s:13 0 8.190000000000001e-15
C12 s:13 0 1.155e-14
C13 s:25 0 1.6380000000000002e-14
C14 s:25 0 7.56e-15
C15 s:25 0 1.3020000000000001e-14
C16 s:21 0 1.2117e-13
C17 s:21 0 1.155e-14
C18 s:21 0 1.3020000000000001e-14
C19 s:12 0 2.835e-14
C20 s:12 0 4.83e-15
C21 s:20 0 1.2117e-13
C22 s:20 0 2.793e-14
C23 s:10 0 2.835e-14
C24 s:10 0 3.2760000000000004e-14
C25 s:8 0 2.835e-14
C26 s:8 0 8.673e-14
C27 s:19 0 1.2117e-13
C28 s:19 0 1.6380000000000002e-14
C29 s:19 0 1.155e-14
C30 s:5 0 2.835e-14
C31 s:5 0 1.6380000000000002e-14
C32 s:5 0 4.83e-15
C33 s:18 0 1.2117e-13
C34 s:18 0 1.6380000000000002e-14
C35 s:18 0 2.793e-14
C36 s:3 0 2.835e-14
C37 s:3 0 1.6380000000000002e-14
C38 s:3 0 3.2760000000000004e-14
C39 s:1 0 2.835e-14
C40 s:1 0 1.6380000000000002e-14
C41 s:1 0 8.190000000000001e-15
C42 s:2 0 8.190000000000001e-15
C43 s:2 0 8.190000000000001e-15
C44 s:2 0 3.2760000000000004e-14
C45 s:4 0 8.190000000000001e-15
C46 s:4 0 2.793e-14
C47 s:22 0 7.56e-15
C48 s:22 0 4.83e-15
C49 s:6 0 8.190000000000001e-15
C50 s:6 0 1.155e-14
C51 s:23 0 7.56e-15
C52 s:66 0 2.6460000000000002e-14
C53 s:65 0 2.6460000000000002e-14
C54 s:64 0 2.268e-14
C55 s:62 0 2.6460000000000002e-14
C56 s:61 0 2.6460000000000002e-14
C57 s:60 0 2.268e-14
C58 s:58 0 2.6460000000000002e-14
C59 s:57 0 2.6460000000000002e-14
C60 s:56 0 2.268e-14
C61 s:59 0 2.268e-14
C62 s:63 0 2.268e-14
C63 s:14 0 9.66e-15
C64 s:14 0 1.974e-14
C65 s:14 0 1.6380000000000002e-14
C66 s:15 0 9.66e-15
C67 s:15 0 1.2768000000000002e-13
C68 s:7 0 8.400000000000001e-15
C69 s:7 0 8.400000000000001e-15
C70 s:7 0 1.974e-14
C71 s:16 0 9.66e-15
C72 s:16 0 1.6380000000000002e-14
C73 s:17 0 9.66e-15
C74 s:17 0 8.190000000000001e-15
C75 s:0 0 8.400000000000001e-15
C76 s:0 0 8.400000000000001e-15
C77 s:0 0 4.431e-14
C78 s:67 0 2.268e-14
C79 s:71 0 2.268e-14
C80 s:75 0 2.268e-14
C81 s:79 0 2.268e-14
C82 s:78 0 2.6460000000000002e-14
C83 s:77 0 2.6460000000000002e-14
C84 s:76 0 2.268e-14
C85 s:74 0 2.6460000000000002e-14
C86 s:73 0 2.6460000000000002e-14
C87 s:72 0 2.268e-14
C88 s:70 0 2.6460000000000002e-14
C89 s:69 0 2.6460000000000002e-14
C90 s:68 0 2.268e-14


* Net:d0 ----------------


R166 d0 d0:3 2.184
R167 d0 d0:46 3.78
R168 d0 d0:7 2.828
R169 d0 d0:12 4.368
R170 d0:12 d0:11 2.184
R171 d0:12 MN0@4:d 14
R172 d0:12 d0:50 3.78
R173 d0:12 MN0@4:d 14
R174 d0:12 d0:4 4.368
R175 d0:12 MN0@4:d 14
R176 d0:12 d0:39 1.008
R177 d0:12 MN0@4:d 14
R178 d0:4 d0:3 2.184
R179 d0:4 MN0@2:d 14
R180 d0:4 d0:46 3.78
R181 d0:4 MN0@2:d 14
R182 d0:4 d0:7 2.828
R183 d0:4 MN0@2:d 14
R184 d0:7 d0:6 2.184
R185 d0:7 d0:23 1.008
R186 d0:7 d0:2 1.54
R187 d0:2 d0:1 2.184
R188 d0:2 MN0@0:d 14
R189 d0:2 d0:42 3.78
R190 d0:2 MN0@0:d 14
R191 d0:2 d0:10 0.644
R192 d0:2 MN0@0:d 14
R193 d0:10 d0:9 2.184
R194 d0:10 d0:25 1.008
R195 d0:9 d0:8 13.832
R196 d0:9 d0:1 0.644
R197 d0:1 d0:43 1.092
R198 d0:1 MN0@0:d 14
R199 d0:1 d0:6 1.54
R200 d0:1 MN0@0:d 14
R201 d0:6 d0:29 12.712
R202 d0:6 d0:3 2.828
R203 d0:3 d0:47 1.092
R204 d0:3 MN0@2:d 14
R205 d0:3 d0:11 4.368
R206 d0:3 MN0@2:d 14
R207 d0:11 d0:51 1.092
R208 d0:11 MN0@4:d 14
R209 d0:11 d0:38 1.008
R210 d0:11 MN0@4:d 14
R211 d0:51 d0:52 3.528
R212 d0:51 MN0@4:d 14
R213 d0:52 d0:53 3.528
R214 d0:52 MN0@4:d 14
R215 d0:53 d0:28 3.024
R216 d0:53 MN0@4:d 14
R217 d0:47 d0:48 3.528
R218 d0:47 MN0@2:d 14
R219 d0:48 d0:49 3.528
R220 d0:48 MN0@2:d 14
R221 d0:49 d0:22 3.024
R222 d0:49 MN0@2:d 14
R223 d0:29 d0:5 1.12
R224 d0:5 d0:24 1.288
R225 d0:5 MN0@0:g 342
R226 d0:5 MN0@1:g 342
R227 d0:5 MN0@2:g 342
R228 d0:5 MN0@3:g 342
R229 d0:5 MN0@4:g 342
R230 d0:5 MN1@0:g 342
R231 d0:5 MN1@1:g 342
R232 d0:5 MN1@2:g 342
R233 d0:5 MN1@3:g 342
R234 d0:5 MN1@4:g 342
R235 d0:5 d0:8 2.184
R236 d0:5 MN0@0:g 342
R237 d0:5 MN0@1:g 342
R238 d0:5 MN0@2:g 342
R239 d0:5 MN0@3:g 342
R240 d0:5 MN0@4:g 342
R241 d0:5 MN1@0:g 342
R242 d0:5 MN1@1:g 342
R243 d0:5 MN1@2:g 342
R244 d0:5 MN1@3:g 342
R245 d0:5 MN1@4:g 342
R246 d0:5 d0:16 2.184
R247 d0:5 MN0@0:g 342
R248 d0:5 MN0@1:g 342
R249 d0:5 MN0@2:g 342
R250 d0:5 MN0@3:g 342
R251 d0:5 MN0@4:g 342
R252 d0:5 MN1@0:g 342
R253 d0:5 MN1@1:g 342
R254 d0:5 MN1@2:g 342
R255 d0:5 MN1@3:g 342
R256 d0:5 MN1@4:g 342
R257 d0:16 d0:41 1.008
R258 d0:16 d0:40 1.008
R259 d0:16 d0:13 1.316
R260 d0:13 d0:31 1.12
R261 d0:13 MN0@0:g 342
R262 d0:13 MN0@1:g 342
R263 d0:13 MN0@2:g 342
R264 d0:13 MN0@3:g 342
R265 d0:13 MN0@4:g 342
R266 d0:13 MN1@0:g 342
R267 d0:13 MN1@1:g 342
R268 d0:13 MN1@2:g 342
R269 d0:13 MN1@3:g 342
R270 d0:13 MN1@4:g 342
R271 d0:13 d0:30 1.12
R272 d0:13 MN0@0:g 342
R273 d0:13 MN0@1:g 342
R274 d0:13 MN0@2:g 342
R275 d0:13 MN0@3:g 342
R276 d0:13 MN0@4:g 342
R277 d0:13 MN1@0:g 342
R278 d0:13 MN1@1:g 342
R279 d0:13 MN1@2:g 342
R280 d0:13 MN1@3:g 342
R281 d0:13 MN1@4:g 342
R282 d0:13 d0:14 18.312
R283 d0:13 MN0@0:g 342
R284 d0:13 MN0@1:g 342
R285 d0:13 MN0@2:g 342
R286 d0:13 MN0@3:g 342
R287 d0:13 MN0@4:g 342
R288 d0:13 MN1@0:g 342
R289 d0:13 MN1@1:g 342
R290 d0:13 MN1@2:g 342
R291 d0:13 MN1@3:g 342
R292 d0:13 MN1@4:g 342
R293 d0:14 d0:33 1.12
R294 d0:14 MN0@0:g 342
R295 d0:14 MN0@1:g 342
R296 d0:14 MN0@2:g 342
R297 d0:14 MN0@3:g 342
R298 d0:14 MN0@4:g 342
R299 d0:14 MN1@0:g 342
R300 d0:14 MN1@1:g 342
R301 d0:14 MN1@2:g 342
R302 d0:14 MN1@3:g 342
R303 d0:14 MN1@4:g 342
R304 d0:14 d0:32 1.12
R305 d0:14 MN0@0:g 342
R306 d0:14 MN0@1:g 342
R307 d0:14 MN0@2:g 342
R308 d0:14 MN0@3:g 342
R309 d0:14 MN0@4:g 342
R310 d0:14 MN1@0:g 342
R311 d0:14 MN1@1:g 342
R312 d0:14 MN1@2:g 342
R313 d0:14 MN1@3:g 342
R314 d0:14 MN1@4:g 342
R315 d0:14 d0:0 2.212
R316 d0:14 MN0@0:g 342
R317 d0:14 MN0@1:g 342
R318 d0:14 MN0@2:g 342
R319 d0:14 MN0@3:g 342
R320 d0:14 MN0@4:g 342
R321 d0:14 MN1@0:g 342
R322 d0:14 MN1@1:g 342
R323 d0:14 MN1@2:g 342
R324 d0:14 MN1@3:g 342
R325 d0:14 MN1@4:g 342
R326 d0:0 d0:18 1.008
R327 d0:0 d0:17 1.008
R328 d0:0 d0:15 1.316
R329 d0:15 d0:35 1.12
R330 d0:15 MN0@0:g 342
R331 d0:15 MN0@1:g 342
R332 d0:15 MN0@2:g 342
R333 d0:15 MN0@3:g 342
R334 d0:15 MN0@4:g 342
R335 d0:15 MN1@0:g 342
R336 d0:15 MN1@1:g 342
R337 d0:15 MN1@2:g 342
R338 d0:15 MN1@3:g 342
R339 d0:15 MN1@4:g 342
R340 d0:15 d0:34 1.12
R341 d0:15 MN0@0:g 342
R342 d0:15 MN0@1:g 342
R343 d0:15 MN0@2:g 342
R344 d0:15 MN0@3:g 342
R345 d0:15 MN0@4:g 342
R346 d0:15 MN1@0:g 342
R347 d0:15 MN1@1:g 342
R348 d0:15 MN1@2:g 342
R349 d0:15 MN1@3:g 342
R350 d0:15 MN1@4:g 342
R351 d0:15 d0:37 4.144
R352 d0:15 MN0@0:g 342
R353 d0:15 MN0@1:g 342
R354 d0:15 MN0@2:g 342
R355 d0:15 MN0@3:g 342
R356 d0:15 MN0@4:g 342
R357 d0:15 MN1@0:g 342
R358 d0:15 MN1@1:g 342
R359 d0:15 MN1@2:g 342
R360 d0:15 MN1@3:g 342
R361 d0:15 MN1@4:g 342
R362 d0:8 d0:26 1.288
R363 d0:8 d0:36 1.988
R364 d0:43 d0:44 3.528
R365 d0:43 MN0@0:d 14
R366 d0:44 d0:45 3.528
R367 d0:44 MN0@0:d 14
R368 d0:45 d0:20 3.024
R369 d0:45 MN0@0:d 14
R370 d0:42 d0:19 3.024
R371 d0:42 MN0@0:d 14
R372 d0:46 d0:21 3.024
R373 d0:46 MN0@2:d 14
R374 d0:50 d0:27 3.024
R375 d0:50 MN0@4:d 14
R376 MN0@0:d MN0@1:d 0.01
R377 MN0@2:d MN0@3:d 0.01
C91 d0:12 0 1.6380000000000002e-14
C92 d0:12 0 2.835e-14
C93 d0:12 0 3.2760000000000004e-14
C94 d0:12 0 7.56e-15
C95 d0:4 0 1.6380000000000002e-14
C96 d0:4 0 2.835e-14
C97 d0:4 0 2.1210000000000002e-14
C98 d0:7 0 1.6380000000000002e-14
C99 d0:7 0 7.56e-15
C100 d0:7 0 1.155e-14
C101 d0:2 0 1.6380000000000002e-14
C102 d0:2 0 2.835e-14
C103 d0:2 0 4.83e-15
C104 d0:10 0 1.6380000000000002e-14
C105 d0:10 0 7.56e-15
C106 d0:9 0 1.0374000000000001e-13
C107 d0:9 0 4.83e-15
C108 d0:1 0 8.190000000000001e-15
C109 d0:1 0 1.155e-14
C110 d0:6 0 9.534023127725253e-14
C111 d0:6 0 2.1210000000000002e-14
C112 d0:3 0 8.190000000000001e-15
C113 d0:3 0 3.2760000000000004e-14
C114 d0:11 0 8.190000000000001e-15
C115 d0:11 0 7.56e-15
C116 d0:51 0 2.6460000000000002e-14
C117 d0:52 0 2.6460000000000002e-14
C118 d0:53 0 2.268e-14
C119 d0:47 0 2.6460000000000002e-14
C120 d0:48 0 2.6460000000000002e-14
C121 d0:49 0 2.268e-14
C122 d0:29 0 8.402624589971874e-15
C123 d0:5 0 9.66e-15
C124 d0:5 0 1.6380000000000002e-14
C125 d0:5 0 1.6380000000000002e-14
C126 d0:16 0 7.56e-15
C127 d0:16 0 7.56e-15
C128 d0:16 0 9.87e-15
C129 d0:13 0 8.400000000000001e-15
C130 d0:13 0 8.400000000000001e-15
C131 d0:13 0 1.3734e-13
C132 d0:14 0 8.400000000000001e-15
C133 d0:14 0 8.400000000000001e-15
C134 d0:14 0 1.6590000000000002e-14
C135 d0:0 0 7.56e-15
C136 d0:0 0 7.56e-15
C137 d0:0 0 9.87e-15
C138 d0:15 0 8.400000000000001e-15
C139 d0:15 0 8.400000000000001e-15
C140 d0:15 0 3.108e-14
C141 d0:8 0 9.66e-15
C142 d0:8 0 1.491e-14
C143 d0:43 0 2.6460000000000002e-14
C144 d0:44 0 2.6460000000000002e-14
C145 d0:45 0 2.268e-14
C146 d0:42 0 2.268e-14
C147 d0:46 0 2.268e-14
C148 d0:50 0 2.268e-14


* Net:d1 ----------------


R378 d1 d1:4 2.184
R379 d1 d1:5 0.522
R380 d1:5 d1:34 0.522
R381 d1:5 MN1@2:d 14
R382 d1:5 d1:26 3.258
R383 d1:5 MN1@2:d 14
R384 d1:26 d1:12 3.024
R385 d1:26 MN1@2:d 14
R386 d1:34 d1:4 16.184
R387 d1:4 d1:27 1.092
R388 d1:4 MN1@2:d 14
R389 d1:4 d1:0 2.828
R390 d1:4 MN1@2:d 14
R391 d1:4 d1:6 4.368
R392 d1:4 MN1@2:d 14
R393 d1:6 d1:31 1.092
R394 d1:6 MN1@4:d 14
R395 d1:6 d1:7 2.282
R396 d1:6 MN1@4:d 14
R397 d1:6 d1:16 1.008
R398 d1:6 MN1@4:d 14
R399 d1:7 d1:30 3.682
R400 d1:7 MN1@4:d 14
R401 d1:30 d1:14 3.024
R402 d1:30 MN1@4:d 14
R403 d1:31 d1:32 3.528
R404 d1:31 MN1@4:d 14
R405 d1:32 d1:33 3.528
R406 d1:32 MN1@4:d 14
R407 d1:33 d1:15 3.024
R408 d1:33 MN1@4:d 14
R409 d1:0 d1:9 1.008
R410 d1:0 d1:1 2.98
R411 d1:0 d1:2 1.54
R412 d1:2 d1:23 1.092
R413 d1:2 MN1@0:d 14
R414 d1:2 d1:22 2.436
R415 d1:2 MN1@0:d 14
R416 d1:2 d1:8 0.759
R417 d1:2 MN1@0:d 14
R418 d1:8 d1:19 2.198
R419 d1:22 d1:3 0.694
R420 d1:22 MN1@0:d 14
R421 d1:3 d1:21 2.834
R422 d1:3 d1:17 0.647
R423 d1:3 d1:1 1.547
R424 d1:21 d1:10 3.024
R425 d1:21 MN1@0:d 14
R426 d1:23 d1:24 3.528
R427 d1:23 MN1@0:d 14
R428 d1:24 d1:25 3.528
R429 d1:24 MN1@0:d 14
R430 d1:25 d1:11 3.024
R431 d1:25 MN1@0:d 14
R432 d1:27 d1:28 3.528
R433 d1:27 MN1@2:d 14
R434 d1:28 d1:29 3.528
R435 d1:28 MN1@2:d 14
R436 d1:29 d1:13 3.024
R437 d1:29 MN1@2:d 14
R438 MN1@0:d MN1@1:d 0.01
R439 MN1@2:d MN1@3:d 0.01
R440 MN1@4:d MN2@0:d 0.01
C149 d1:5 0 3.91245283018867e-15
C150 d1:5 0 2.4437547169811332e-14
C151 d1:26 0 2.268e-14
C152 d1:34 0 1.6380000000000002e-14
C153 d1:4 0 8.190000000000001e-15
C154 d1:4 0 2.1210000000000002e-14
C155 d1:4 0 3.2760000000000004e-14
C156 d1:6 0 8.190000000000001e-15
C157 d1:6 0 1.711358490566038e-14
C158 d1:6 0 7.56e-15
C159 d1:7 0 2.7616415094339622e-14
C160 d1:30 0 2.268e-14
C161 d1:31 0 2.6460000000000002e-14
C162 d1:32 0 2.6460000000000002e-14
C163 d1:33 0 2.268e-14
C164 d1:0 0 7.56e-15
C165 d1:0 0 2.2350566037735855e-14
C166 d1:0 0 1.155e-14
C167 d1:2 0 8.190000000000001e-15
C168 d1:2 0 1.827e-14
C169 d1:2 0 5.6921052631579074e-15
C170 d1:8 0 1.6486158762668835e-14
C171 d1:22 0 5.201320754716986e-15
C172 d1:3 0 2.1258679245283018e-14
C173 d1:3 0 4.852685878455256e-15
C174 d1:3 0 1.1604248839784307e-14
C175 d1:21 0 2.268e-14
C176 d1:23 0 2.6460000000000002e-14
C177 d1:24 0 2.6460000000000002e-14
C178 d1:25 0 2.268e-14
C179 d1:27 0 2.6460000000000002e-14
C180 d1:28 0 2.6460000000000002e-14
C181 d1:29 0 2.268e-14


xMN0@0 MN0@0:d MN0@0:g MN0@0:s MN0@0:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@1 MN0@1:d MN0@1:g MN0@1:s MN0@1:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@2 MN0@2:d MN0@2:g MN0@2:s MN0@2:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@3 MN0@3:d MN0@3:g MN0@3:s MN0@3:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@4 MN0@4:d MN0@4:g MN0@4:s MN0@4:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@0 MN1@0:d MN1@0:g MN1@0:s MN1@0:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@1 MN1@1:d MN1@1:g MN1@1:s MN1@1:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@2 MN1@2:d MN1@2:g MN1@2:s MN1@2:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@3 MN1@3:d MN1@3:g MN1@3:s MN1@3:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@4 MN1@4:d MN1@4:g MN1@4:s MN1@4:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1

.end